US09328110B2
The general method described in Steps 9 and 10 of Example 1 was used to aminate 1-[2,2-dimethyl-3-(2-methyl[1,3]dioxolan-2-yl)propyl]-1H-imidazo[4,5-c]quinoline (8.8 g, 27 mmol) by reaction with m-CPBA (11.8 g) to provide 1-[2,2-dimethyl-3-(2-methyl-[1,3]dioxolan-2-yl)propyl]-5-oxido-1H-imidazo[4,5-c]quinoline followed by reaction with p-toluenesulfonyl chloride (9.1 g, 48 mmol) and ammonium hydroxide solution (100 mL) to provide 1-[2,2-dimethyl-3-(2-methyl[1,3]dioxolan-2-yl)propyl]-1H-imidazo[4,5-c]quinolin-4-amine as a light brown solid after chromatography on silica gel (elution with a solution of 7% methanol in dichloromethane that contained about 5 mL of ammonium hydroxide solution per liter of eluent) and recrystallization from aqueous methanol, mp 153-155° C.

reactant | 1-[2,2-dimethyl-3-(2-methyl[1,3]dioxolan-2-yl)propyl]-1H-imidazo[4,5-c]quinoline | 27 mmol, 8.8 g | CC(CN1C=NC=2C=NC=3C=CC=CC3C21)(CC2(OCCO2)C)C | C19H23N3O2
reactant | m-CPBA | 11.8 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
product | 1-[2,2-dimethyl-3-(2-methyl-[1,3]dioxolan-2-yl)propyl]-5-oxido-1H-imidazo[4,5-c]quinoline | CC(CN1C=NC=2C=[N+](C=3C=CC=CC3C21)[O-])(CC2(OCCO2)C)C | C19H23N3O3
